US05599847
(E)-1-Phthalimido-4-bromobut-2-ene (4.2 g, 15 mmol), diethylamine (1.1 g, 15 mmol) and KF supported on Celite (7.5 g) were stirred together in acetonitrile (75 ml) at 40° C. for 18 h. The solution was filtered, and the filtrate was concentrated in vacuo to afford an oil, which was dissolved in glacial acetic acid (30 ml) and conc. HCl (30 ml). The mixture was heated at reflux for 30 h. The solution was cooled, filtered and the solvents were removed in vacuo to afford (E)-N,N-diethyl-1,4-diaminobut-2-ene dihydrochloride as an oil (1.32 g, 41%). δH (90 MHz, D2O) 1.19 (6H, m) 3.24 (4H, q), 4.05 (4H, m) and 5.96 (2H, m).

reactant | (E)-1-Phthalimido-4-bromobut-2-ene | 15 mmol, 4.2 g | C1(C=2C(C(N1C\C=C\CBr)=O)=CC=CC2)=O | C12H10BrNO2
reactant | diethylamine | 15 mmol, 1.1 g | C(C)NCC | C4H11N
reactant | KF | [F-].[K+]
reactant | HCl | 30 ml | Cl | ClH
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | (E)-N,N-diethyl-1,4-diaminobut-2-ene dihydrochloride | 1.32 g, 41% | Cl.Cl.C(C)N(C\C=C\CN)CC | InChI=1S/C8H18N2.2ClH/c1-3-10(4-2)8-6-5-7-9;;/h5-6H,3-4,7-9H2,1-2H3;2*1H/b6-5+;;
